US04209515
30 ml of concentrated aqueous ammonia solution is added dropwise at 30° in the course of 5 minutes, with stirring, to the suspension of 6.0 g (0.015 mole) of 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester in 220 ml of methanol. There has formed after 4 hours a clear reaction solution, and a short time later a crystalline product commences to precipitate. Stirring is maintained for one hour at room temperature and for one hour at 0°-5°. The formed crystals are thereupon filtered off and recrystallised from 50 ml of methanol. The product is filtered off with suction and washed with methanol and hexane. After drying in vacuum, there is obtained 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide, m.p. 128°-130°.

reactant | ammonia | 30 ml | N | H3N
reactant | 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester | 0.015 mole, 6.0 g | COC(=O)C1=NN(C(=N1)CCl)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C18H13Cl2N3O3
solvent | methanol | 220 ml | CO | CH4O
product | 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)N | C17H12Cl2N4O2
